US06825212B2
Preparation of N,N-Dimethyl N-(2-{3-[(3-fluorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-1-yl}ethyl)amine Dihydrochloride
A stirred solution of N,N-dimethyl-N-[2-(1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl]amine (1.66 g, 8.8 mmol) in nitrobenzene is treated with 3-fluorophenylsulfonyl chloride (1.88 g, 9.7 mmol) under nitrogen, followed by silver trifluoromethylsulfonate (2.94 g, 11.4 mmol), heated to 100° C. for 22 h, cooled and filtered through a cotton plug. The filtrate is treated with water and saturated aqueous NaHCO3 and extracted with CH2Cl2. The extracts are combined, dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed eluting with 2:98 concentrated NH4OH:ethanol, to afford the free amine of the title compound as a viscous oil which solidifies (1.25 g, 41%). The free amine is dissolved in warm ethanol, treated with 4M HCl in dioxane and filtered. The filtercake is dried to give the title product as a pale yellow solid, 1.07 g (29% yield), mp 191-192° C., identified by mass spectral and HNMR analyses.

reactant | N,N-dimethyl-N-[2-(1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl]amine | 8.8 mmol, 1.66 g | CN(CCN1C=CC=2C1=NC=CC2)C | C11H15N3
reactant | 3-fluorophenylsulfonyl chloride | 9.7 mmol, 1.88 g | FC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | silver trifluoromethylsulfonate | 11.4 mmol, 2.94 g | FC(F)(F)S(=O)(=O)[O-].[Ag+]
product | N,N-Dimethyl N-(2-{3-[(3-fluorophenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-1-yl}ethyl)amine Dihydrochloride | Cl.Cl.CN(CCN1C=C(C=2C1=NC=CC2)S(=O)(=O)C2=CC(=CC=C2)F)C | InChI=1S/C17H18FN3O2S.2ClH/c1-20(2)9-10-21-12-16(15-7-4-8-19-17(15)21)24(22,23)14-6-3-5-13(18)11-14;;/h3-8,11-12H,9-10H2,1-2H3;2*1H
